data/mechanism_extracts/JOC/10.1021_acs.joc.4c02530_sup_1.json
{"doi": "10.1021_acs.joc.4c02530_sup_1", "journal": "JOC", "is_review": false, "rxn_class_summary": "Photoelectrochemical radical thiocyanation/cyclization of N-allyl pyrazoles with NaSCN to afford SCN-functionalized pyrazolo-fused heterocycles via radical pathway", "mechanism_family": ["photoredox_combined", "radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of SCN- (assisted by photoexcited TPPT acting as single-electron oxidant) generates thiocyanate radical (and/or (SCN)2); the radical adds to the alkene, triggering radical cyclization onto the arene followed by rearomatization", "key_intermediates": [{"name": "thiocyanate radical (SCN•)", "smiles": "[S]C#N", "role": "reactive"}, {"name": "thiocyanogen (SCN)2", "smiles": "N#CSSC#N", "role": "transient"}, {"name": "carbon-centered radical from SCN addition to alkene", "smiles": null, "role": "reactive"}, {"name": "cyclohexadienyl radical after intramolecular arene attack", "smiles": null, "role": "transient"}, {"name": "photoexcited TPPT (2,4,6-triphenylpyrylium) excited state", "smiles": null, "role": "reactive"}], "electron_flow": "Photoexcited TPPT* oxidizes SCN- to SCN• (TPPT is regenerated at the anode); SCN• adds to the terminal alkene of 1a to give a tertiary C-radical that cyclizes onto the pendant arene, and rearomatization (H loss/oxidation) delivers product 3a.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Yield of 3a dropped to 0% (vs 70% without quencher)"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Yield <1%, reaction suppressed"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Yield <1%; (2-thiocyanatoethene-1,1-diyl)dibenzene 6 isolated in 75%, confirming SCN• generation"}, {"name": "p-dinitrobenzene (pDNB)", "smiles": "O=[N+]([O-])c1ccc(cc1)[N+](=O)[O-]", "purpose": "redox_probe", "observation": "Yield 0%, consistent with SET inhibition"}, {"name": "CuCl2", "smiles": "Cl[Cu]Cl", "purpose": "redox_probe", "observation": "Yield 0%, single electron pathway blocked"}, {"name": "CCl4", "smiles": "ClC(Cl)(Cl)Cl", "purpose": "radical_trap", "observation": "Yield 50%, partial inhibition"}, {"name": "(SCN)2 (NCS-SCN, thiocyanogen)", "smiles": "N#CSSC#N", "purpose": "intermediate_trap", "observation": "Used in place of NaSCN gave 3a in 64% NMR yield, indicating (SCN)2 can serve as a competent but less reactive intermediate; alternative pathways not via (SCN)2 may also operate"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "on/off_light_or_current", "stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "On-off experiments show both light AND current are required for sustained reactivity (light-off with continuous electrolysis stalls; electricity-off with continuous irradiation also stalls), consistent with a photoelectrochemical cycle where TPPT must be both photoexcited and electrochemically regenerated. (SCN)2 is shown to be a competent intermediate but is less reactive than NaSCN, so an alternative (non-(SCN)2) pathway involving direct anodic/photoredox oxidation of SCN- to SCN• is likely operative in parallel."}
